US06060508
0.664 ml (3.72 mmol) of diethylaminosulphur trifluoride (DAST) and 5 ml of dichloromethane are placed in a 50 ml round-bottomed flask. The mixture is cooled to -78° C. by a bath of dry ice in acetone and a solution of 0.877 g (3.38 mmol) of 2,3-dimethyl-7-(1-diethylamino-2-hydroxyethyl)benzofuran id 5 ml of dichloroethane is added dropwise. Stirring is continued for 90 minutes at this temperature, before allowing the reaction mixture to return to room temperature. 10 ml of water are added and extraction is carried out with dichloroethane (3×15 ml). The organic phases are combined, dried over magnesium sulphate and concentrated under vacuum. The residue is purified by chromatography on a silica column (elution solvent: 5% methanol in dichloromethane). 700 mg (Yield: 62%) of 2,3-dimethyl-7-(1-diethylamino-2-fluoroethyl)benzofuran hydrochloride are obtained in the form of a colourless oil.

reactant | diethylaminosulphur trifluoride | 3.72 mmol, 0.664 ml | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | dry ice | C(=O)=O | CO2
reactant | 2,3-dimethyl-7-(1-diethylamino-2-hydroxyethyl)benzofuran id | 3.38 mmol, 5 ml, 0.877 g | C[C-]1OC2=C(C1C)C=CC=C2C(CO)N(CC)CC
reactant | dichloroethane | ClC(C)Cl | C2H4Cl2
solvent | acetone | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2,3-dimethyl-7-(1-diethylamino-2-fluoroethyl)benzofuran hydrochloride | 700 mg, Yield: 62% | Cl.CC=1OC2=C(C1C)C=CC=C2C(CF)N(CC)CC | InChI=1S/C16H22FNO.ClH/c1-5-18(6-2)15(10-17)14-9-7-8-13-11(3)12(4)19-16(13)14;/h7-9,15H,5-6,10H2,1-4H3;1H
